US09102591B2
2,3-dichloro-N-(2-(2-methylpyrimidin-5-yl)-2-(tetrahydro-2H-pyran-4-yl)ethyl)benzamide
From 2,3-dichlorobenzoic acid and 2-(2-methylpyrimidin-5-yl)-2-(tetrahydro-2H-pyran-4-yl)ethanamine. LCMS (MH+): m/z=394.1, tR (minutes, Method F)=1.88

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | 2-(2-methylpyrimidin-5-yl)-2-(tetrahydro-2H-pyran-4-yl)ethanamine | CC1=NC=C(C=N1)C(CN)C1CCOCC1 | C12H19N3O
product | 2,3-dichloro-N-(2-(2-methylpyrimidin-5-yl)-2-(tetrahydro-2H-pyran-4-yl)ethyl)benzamide | ClC1=C(C(=O)NCC(C2CCOCC2)C=2C=NC(=NC2)C)C=CC=C1Cl | C19H21Cl2N3O2
